US07153873B2
1-acetyl-3-(2,6-dimethyl-phenylamino)-2-methyl-6-nitro-imidazo[1,2-a]pyridin-1-ium chloride
Example 30 was carried out in accordance with the general directions for synthesis in process step a) from 1.0 ml (0.1 mmol) 2-amino-5-nitropyridine (0.1 M, DCM), 0.575 ml (0.115 mmol) 2,6-dimethylphenylisocyanide solution (0.2 M, DCM), 0.500 ml (0.15 mmol) acetaldehyde solution (0.3 M, DCM) and 10 μl perchloric acid (w=20%) and in process step c) and d) by reacting the resultant reaction product with 0.4 mmol acetylchloride.

reactant | 2-amino-5-nitropyridine | 0.1 mmol, 0.1 M, 1.0 ml | NC1=NC=C(C=C1)[N+](=O)[O-] | C5H5N3O2
reactant | 2,6-dimethylphenylisocyanide | 0.115 mmol, 0.2 M, 0.575 ml | CC1=C(C(=CC=C1)C)[N+]#[C-] | C9H9N
reactant | acetaldehyde | 0.15 mmol, 0.3 M, 0.500 ml | C(C)=O | C2H4O
reactant | acetylchloride | 0.4 mmol | C(C)(=O)Cl | C2H3ClO
solvent | perchloric acid | 10 μl | Cl(=O)(=O)(=O)O | ClHO4
product | 1-acetyl-3-(2,6-dimethyl-phenylamino)-2-methyl-6-nitro-imidazo[1,2-a]pyridin-1-ium chloride | [Cl-].C(C)(=O)[N+]=1C(=C(N2C1C=CC(=C2)[N+](=O)[O-])NC2=C(C=CC=C2C)C)C | InChI=1S/C18H19N4O3.ClH/c1-11-6-5-7-12(2)17(11)19-18-13(3)21(14(4)23)16-9-8-15(22(24)25)10-20(16)18;/h5-10,19H,1-4H3;1H/q+1;/p-1
